US04536346
4-(p-Chlorocinnamamido)benzoic acid
A solution of 7.1 g. of p-(p-chlorocinnamamido)benzoic acid, ethyl ester and 1.6 g. of potassium hydroxide in 50 ml. of 95% ethanol is stirred at 75° C. overnight. A 25 ml. portion of water and 200 mg. of potassium hydroxide are added, and stirring is continued at 75° C. for 1.5 hours. The mixture is then diluted with 150 ml. of water, adjusted to pH 3 with 37% hydrochloric acid, and the precipitate is collected and dried. The solid is boiled in 100 ml. of methyl cellosolve, cooled, and the solid is collected, washed with ethanol, and dried, giving 5.51 g. of the desired product as a white powder, m.p. 333°-336° C. (dec.).

reactant | p-(p-chlorocinnamamido)benzoic acid, ethyl ester | ClC1=CC=C(C=CC(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H16ClNO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(p-Chlorocinnamamido)benzoic acid | ClC1=CC=C(C=CC(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C16H12ClNO3
